US08012998B2
a) 1-(1-Benzyl-2,5-dihydro-1H-pyrrol-3-yl)-ethanone (XVII)
To a solution of N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine (9.76 g, 0.041 mol) in CH2Cl2 (40 mL) at 0° C., was added dropwise over a 5 minutes period but-3-yn-2-one (2.0 g, 0.029 mol) followed by trifluoroacetic acid (0.22 mL, 0.003 mol) (very exothermic reaction). The ice bath was removed after 30 minutes, and the solution was stirred at 25° C. for an additional 2 h. It was then concentrated and purification by flash chromatography (SiO2, EtOAc/Heptane 1:1) afforded 2.90 g (49%) of the title compound as a yellow oil. ES-MS m/e: 202.2 (M+H+).

reactant | N-(methoxymethyl)-N-(phenylmethyl)-N-(trimethylsilyl)methylamine | 0.041 mol, 9.76 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | but-3-yn-2-one | 0.029 mol, 2.0 g | CC(C#C)=O | C4H4O
reactant | trifluoroacetic acid | 0.003 mol, 0.22 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-Benzyl-2,5-dihydro-1H-pyrrol-3-yl)-ethanone | 2.90 g, 49% | C(C1=CC=CC=C1)N1CC(=CC1)C(C)=O | C13H15NO
